US08669361B2
Reaction of 5-chloro-1-methyl-4-nitro-1H-pyrazole and 4,4-difluoroazepane gave 4,4-difluoro-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepane as a white solid (0.41 g, 100%). 1H NMR (400 MHz, CDCl3) δ 8.04 (s, 1H), 3.79 (s, 3H), 3.39-3.23 (m, 4H), 2.35-2.20 (m, 4H), 2.00-1.92 (m, 2H)

reactant | 5-chloro-1-methyl-4-nitro-1H-pyrazole | ClC1=C(C=NN1C)[N+](=O)[O-] | C4H4ClN3O2
reactant | 4,4-difluoroazepane | FC1(CCNCCC1)F | C6H11F2N
product | 4,4-difluoro-1-(1-methyl-4-nitro-1H-pyrazol-5-yl)azepane | 0.41 g, 100% | FC1(CCN(CCC1)C1=C(C=NN1C)[N+](=O)[O-])F | C10H14F2N4O2
